US04304728
6-(2-Chlorophenyl)-4-oxo-4H-pyran-2-carboxylic acid
A mixture of ethyl 6-(2-chlorophenyl)-4-oxo-4H-pyran-2-carboxylate (3.9 g) and concentrated hydrochloric acid (40 ml) was heated under reflux for 2 hours. The reactant dissolved on warming and a solid began to precipitate. Water (40 ml) was added to the cooled mixture and the resulting buff solid yielded the title product as off-white needles (mp 241°-246° C. with decomposition).

reactant | ethyl 6-(2-chlorophenyl)-4-oxo-4H-pyran-2-carboxylate | 3.9 g | ClC1=C(C=CC=C1)C1=CC(C=C(O1)C(=O)OCC)=O | C14H11ClO4
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | 6-(2-Chlorophenyl)-4-oxo-4H-pyran-2-carboxylic acid | ClC1=C(C=CC=C1)C1=CC(C=C(O1)C(=O)O)=O | C12H7ClO4
